US07041748B2
Notes: 2-(1′,1′-bis(trifluoromethyl)-1′-acetoxyethyl)norbornene was prepared from 2-(1′,1′-bis(trifluoromethyl)-1′-hydroxyethyl)norbornene (Central Glass, Japan), using a standard procedure (acetylchloride and triethyl amine).

reactant | 2-(1′,1′-bis(trifluoromethyl)-1′-hydroxyethyl)norbornene | FC(C(CC=1C2CCC(C1)C2)(O)C(F)(F)F)(F)F | C11H12F6O
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 2-(1′,1′-bis(trifluoromethyl)-1′-acetoxyethyl)norbornene | FC(C(CC=1C2CCC(C1)C2)(OC(C)=O)C(F)(F)F)(F)F | C13H14F6O2
